US07977358B2
C) [1,4-Dimethyl-5-(3-trifluoromethyl-phenyl)-1H-pyrazol-3-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone
In analogy to the procedure described for Example 1, 1,4-dimethyl-5-(3-trifluoromethyl-phenyl)-1H-pyrazole-3-carboxylic acid and 4-pyrrolidine-1-yl-piperidine with HATU/iPr2Net gave the title compound as yellow oil. MS: 421.1 (MH+).

reactant | 1,4-dimethyl-5-(3-trifluoromethyl-phenyl)-1H-pyrazole-3-carboxylic acid | CN1N=C(C(=C1C1=CC(=CC=C1)C(F)(F)F)C)C(=O)O | C13H11F3N2O2
reactant | 4-pyrrolidine-1-yl-piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | [1,4-Dimethyl-5-(3-trifluoromethyl-phenyl)-1H-pyrazol-3-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | CN1N=C(C(=C1C1=CC(=CC=C1)C(F)(F)F)C)C(=O)N1CCC(CC1)N1CCCC1 | C22H27F3N4O
